US06630004B1
Synthesis of α-N-(4-Nitrophenyl)amino-ε-caprolactam
5 g (39 mmol) of α-amino-ε-caprolactam are dissolved in 50 ml of dimethylformamide and 5.5 ml (1 eq) of triethylamine in a 100 ml three-necked flask equipped with a reflux condenser and a thermometer. 4.1 ml (1.5 eq) of 4-fluoronitrobenzene are then run into the reaction mixture, which is subsequently brought to a temperature of 70° C. for 48 hours. The mixture is cooled and is then precipitated from water. An orangy-yellow precipitate is isolated by filtration and is then purified on a silica column (eluent: dichloromethane 95/methanol 5). 2.7 g of a yellow product are obtained, i.e. a final yield of 28%.

reactant | α-amino-ε-caprolactam | 39 mmol, 5 g | NC1C(=O)NCCCC1 | C6H12N2O
reactant | triethylamine | 5.5 ml, 1 eq | C(C)N(CC)CC | C6H15N
reactant | 4-fluoronitrobenzene | 4.1 ml, 1.5 eq | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | α-N-(4-Nitrophenyl)amino-ε-caprolactam | 2.7 g, yield of 28% | [N+](=O)([O-])C1=CC=C(C=C1)NC1C(=O)NCCCC1 | C12H15N3O3
